US08202873B2
Dissolve racemic tetrahydro-furan-3-carboxylic acid (0.067 g, 0.58 mmol) in methylene chloride (5 mL). Add benzotriazol-1-yloxy-tripyrrolidinophosphonium hexafluorophosphate (PyBOP) (0.453 g, 0.87 mmol). Add 1-hydroxybenzotriazole (0.118 g, 0.87 mmol). Add 4-[4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-benzylamine (0.24 g, 0.63 mmol) dissolved in methylene chloride (5 mL). Stir at rt for 5 min. Add diisopropylethylamine (0.113 g, 0.87 mmol). Stir at rt for 4 hr. Purify by normal phase chromatography (4% 7 N ammonia-methonal/ethyl acetate) to give racemic tetrahydro-furan-3-carboxylic acid 4-[4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-benzylamide (0.107 g, 39%). MS (ES): m/z=476.3[M+H]. Dissolve this racemate (0.107 g, 0.23 mmol) in acetonitrile (1 mL) and water (4 mL). Add aq. 1 N HCl (1 eq., 0.23 mmol, 0.23 mL). Freeze the solution to −78° C. in a dry-ice/acetone bath. Place the solution in the lyophilizer for 48 hr. to give the title compound (0.110 g, 94%). MS (ES): m/z=476.3 [M+H].

reactant | racemic tetrahydro-furan-3-carboxylic acid | 0.58 mmol, 0.067 g | O1CC(CC1)C(=O)O | C5H8O3
reactant | benzotriazol-1-yloxy-tripyrrolidinophosphonium hexafluorophosphate | 0.87 mmol, 0.453 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | 1-hydroxybenzotriazole | 0.87 mmol, 0.118 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-[4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-benzylamine | 0.63 mmol, 0.24 g | CN1N=CC(=C1C)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(CN)C=C1 | C21H27N7
reactant | diisopropylethylamine | 0.87 mmol, 0.113 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | racemic tetrahydro-furan-3-carboxylic acid 4-[4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-benzylamide | 0.107 g, 39% | CN1N=CC(=C1C)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(CNC(=O)C2COCC2)C=C1 | C26H33N7O2
